US07037908B2
5-Ethoxycarbonylmethyl-3-[2-fluoro-6-(methanesulfonyl-methyl-amino)-phenyl]-2-methyl-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester.
To a stirred suspension of N-(2-cyano-3-fluoro-phenyl)-N-methyl-methanesulfonamide (0.685 g, 3.0 mmol) and N-methylhydroxylamine hydrochloride (1.0 g, 12 mmol) in 1:1 water/ethanol (20 mL) was added sodium carbonate (0.936 g, 6 mmol) in small portions and the resulting mixture stirred at 80° C. for 4 h. The reaction mixture was concentrated and the residue re-dissolved into 1:1 water :ethanol (20 mL). To this solution was added diethyl acetylenedicarboxylate (0.64 mL, 4 mmol) and the mixture stirred for 1 h at room temperature. The reaction mixture was then taken up in ethyl acetate (100 mL), washed successively with water and brine (50 mL each), dried (MgSO4), filtered and concentrated to give a yellow oil. The crude product was purified on silica gel column (2:3 to 3:2 ethyl acetate/hexanes) to afford the title compound as a viscous yellow oil (0.7453 g, 56% yield). 1HNMR (500 MHz, CDCl3) δ: 7.52–7.48 (1H, m), 7.31 (1H, d, J=8.24 Hz), 7.18 (1H, t, J=8.55 Hz), 4.35–4.25 (2H, m), 4.18 (2H, q, J=7.02 Hz), 3.40 (1H, d, J=16.48 Hz), 3.21 (3H, s), 3.09 (1H, d, J=16.48 Hz), 3.09 (3H, s), 3.07 (3H, s), 1.33 (3H, t, J=7.02 Hz), 1.26 (3H, t, J=7.02 Hz). HRMS (ESI) calcd for C18H25FN3O7S (M+H): 446.1397; found: 446.1383.

reactant | N-(2-cyano-3-fluoro-phenyl)-N-methyl-methanesulfonamide | 3.0 mmol, 0.685 g | C(#N)C1=C(C=CC=C1F)N(S(=O)(=O)C)C | C9H9FN2O2S
reactant | N-methylhydroxylamine hydrochloride | 12 mmol, 1.0 g | Cl.CNO
reactant | sodium carbonate | 6 mmol, 0.936 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl acetylenedicarboxylate | 4 mmol, 0.64 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water ethanol | 20 mL | O.C(C)O
product | 5-Ethoxycarbonylmethyl-3-[2-fluoro-6-(methanesulfonyl-methyl-amino)-phenyl]-2-methyl-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 0.7453 g, 56% yield | C(C)OC(=O)C1(N=C(N(O1)C)C1=C(C=CC=C1N(C)S(=O)(=O)C)F)CC(=O)OCC | C18H24FN3O7S
